US06352993B1
Step 1: 5,6-dimethyl-2-chloro-4-(7-methoxy-1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine
After 1-methyl-7-methoxy-1,2,3,4-tetrahydroisoquinoline (0.9 g, 5.1 mmol) and triethylamine(0.7 ml, 5.1 mmol) were added to a suspension of 5,6-dimethyl-2,4-dichloropyrimidine (0.8 g, 4.64 mmol) in dimethylformamide, 1.0 g of the titled compound was obtained in accordance with the same procedure as in Step 1 of Example 35. (Yield: 70.3%)

reactant | 1-methyl-7-methoxy-1,2,3,4-tetrahydroisoquinoline | 5.1 mmol, 0.9 g | CC1NCCC2=CC=C(C=C12)OC | C11H15NO
reactant | triethylamine | 5.1 mmol, 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | 5,6-dimethyl-2,4-dichloropyrimidine | 4.64 mmol, 0.8 g | CC=1C(=NC(=NC1C)Cl)Cl | C6H6Cl2N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-chloro-4-(7-methoxy-1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 1.0 g, Yield: 70.3% | CC=1C(=NC(=NC1C)Cl)N1C(C2=CC(=CC=C2CC1)OC)C | C17H20ClN3O
